US07910740B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
The title compound was prepared in analogy to example 1 step e) from 46 mg (0.33 mmol) 2-chlorocyclohexanon and 79 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea in ethanol (3 ml). The crude product was purified on silica gel with methylene chloride/methanol 19/1 yielding 40 mg (39%) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine as a yellow solid. MS ISP (m/e): 341.4 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.16 (s, 1H), 7.63 (s, 1H), 7.49 (s, 1H), 7.28 (d, 1H), 7.22 (d, 1H), 7.01 (s, 1H), 3.77 (s, 3H), 2.57 (br s, 4H), 2.14 (s, 3H), 1.71 (br s, 4H).

reactant | 2-chlorocyclohexanon | 0.33 mmol, 46 mg | ClC1C(CCCC1)=O | C6H9ClO
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 79 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC2=C(N1)CCCC2 | C18H20N4OS
